US05889027
2-(o-Chlorophenyl)-3-oxo-4-(4-methylpyridyl)-5-methylamino-2,3-dihydrofuran (Compound No. 18)
Solid sodium hydroxide(180 mg, 4.50 mmol) was dissolved in a small amount of water and then added to methylene chloride (8.6 ml) containing 2-(o-chlorophenyl)-3-oxo-4-(4-methylpyridyl)-5-amino-2,3-dihydrofuran(400 mg, 1.3 mmol). Tetrabutylammonium bromide (50.0 mg, 1.37 mmol) was added and then a mixture containing dimethyl sulfate (164 mg, 1.30 mmol) was slowly added at room temperature. The mixture was stirred at room temperature for one hour and then washed twice with water, dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo to yield a crude product, which was separated by column-chromatography over silica gel to obtain the desired product (370 mg, yield=88%) as a white solid.

reactant | sodium hydroxide | 4.50 mmol, 180 mg | [OH-].[Na+]
reactant | methylene chloride | 8.6 ml | C(Cl)Cl | CH2Cl2
reactant | 2-(o-chlorophenyl)-3-oxo-4-(4-methylpyridyl)-5-amino-2,3-dihydrofuran | 1.3 mmol, 400 mg | ClC1=C(C=CC=C1)C1OC(=C(C1=O)C1=NC=CC(=C1)C)N | C16H13ClN2O2
reactant | dimethyl sulfate | 1.30 mmol, 164 mg | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
catalyst | Tetrabutylammonium bromide | 1.37 mmol, 50.0 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(o-Chlorophenyl)-3-oxo-4-(4-methylpyridyl)-5-methylamino-2,3-dihydrofuran | 370 mg, yield=88% | ClC1=C(C=CC=C1)C1OC(=C(C1=O)C1=NC=CC(=C1)C)NC | C17H15ClN2O2
